US07741320B2
Step C: 7-chloro-4-cyclobutyl-4H-1,2,4-benzothiadiazine 1,1-dioxide
A solution of 7-amino-4-cyclobutyl-4H-1,2,4-benzothiadiazine 1,1-dioxide prepared in the Step above (3.48 g) in 6N HCl (40 mL) is cooled on an ice bath and then an aqueous solution of NaNO2 (2 g in 15 mL) is added dropwise. The solution obtained is added gradually to a solution of the Cu2Cl2 in concentrated HCl (30 mL). After stirring for 30 minutes at ambient temperature, water (150 mL) is added to the reaction mixture and the precipitate obtained is collected by filtration, washed with water and dried.

reactant | 7-amino-4-cyclobutyl-4H-1,2,4-benzothiadiazine 1,1-dioxide | NC1=CC2=C(N(C=NS2(=O)=O)C2CCC2)C=C1 | C11H13N3O2S
reactant | NaNO2 | 15 mL, 2 g | N(=O)[O-].[Na+]
reactant | water | 150 mL | O | H2O
reactant | HCl | 6N, 40 mL | Cl | ClH
reactant | HCl | 30 mL | Cl | ClH
product | 7-chloro-4-cyclobutyl-4H-1,2,4-benzothiadiazine 1,1-dioxide | ClC1=CC2=C(N(C=NS2(=O)=O)C2CCC2)C=C1 | C11H11ClN2O2S
